US07960369B2
3-(4-{[3-(2-methyl-1-naphthyl)benzyl]oxy}phenyl)propanoic acid
To a solution of methyl 3-(4-{[3-(2-methyl-1-naphthyl)benzyl]oxy}phenyl)propanoate (0.648 g, 1.58 mmol) in a mixture of methanol (6 mL) and tetrahydrofuran (6 mL) was added 2 M aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at room temperature for 75 hrs. Water was added to the reaction mixture, acidified with 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (0.534 g, yield 85%) as colorless needle crystals.

reactant | methyl 3-(4-{[3-(2-methyl-1-naphthyl)benzyl]oxy}phenyl)propanoate | 1.58 mmol, 0.648 g | CC1=C(C2=CC=CC=C2C=C1)C=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C28H26O3
reactant | sodium hydroxide | 2 M, 2 mL | [OH-].[Na+]
reactant | Water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 6 mL | CO | CH4O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 3-(4-{[3-(2-methyl-1-naphthyl)benzyl]oxy}phenyl)propanoic acid | 0.534 g, yield 85% | CC1=C(C2=CC=CC=C2C=C1)C=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1 | C27H24O3
